US07064124B2
N-(6-Methoxypyridin-3-yl)-4-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide
2-Chloro-1,3-dimethylimidazolinium chloride (93 mg, 0.555 mmol), 5-amino-2-methoxypyridine (55 mg, 0.440 mmol) and triethylamine (44 mg, 0.440 mmol) were added to a methylene chloride solution (5 ml) of 4-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid (137 mg, 0.366 mmol) in a nitrogen atmosphere and the resulting solution was stirred all the night through. The reaction solution was diluted with chloroform, then washed with water and dried, and the solvent was removed by distillation. The residue was purified by silica gel column chromatography (hexand:ethyl acetate=3:1) to obtain the titled compound (31 mg, 0.065 mmol, 18%).

reactant | 2-Chloro-1,3-dimethylimidazolinium chloride | 0.555 mmol, 93 mg | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-amino-2-methoxypyridine | 0.440 mmol, 55 mg | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | triethylamine | 0.440 mmol, 44 mg | C(C)N(CC)CC | C6H15N
reactant | 4-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 0.366 mmol, 137 mg | COC=1C(C(=C(C(C1OC)=O)CC1=CC(=C(C(=O)O)C=C1)OC(C)=O)C)=O | C19H18O8
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-(6-Methoxypyridin-3-yl)-4-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide | 0.065 mmol, 31 mg, 18% | COC1=CC=C(C=N1)NC(C1=C(C=C(C=C1)CC=1C(C(=C(C(C1C)=O)OC)OC)=O)OC(C)=O)=O | C25H24N2O8
